Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / latex / Penicillins / aspirin 
/ egg / dairy / cows milk
 
Attending: ___.
 
Chief Complaint:
Nausea, diarrhea, and blood per rectum
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Ms. ___ is ___ female with a history of GERD,
eosinophilic esophagitis who presents with nausea and BRBPR.
Patient states she ate some bad chicken last night, woke up ~1AM
w/ nausea. No vomiting, but did have diarrhea, nonbloody,
nonmelanotic. This AM, went to bathroom again and had some large
blood clots per rectum. Is feeling a little weak, thinks she
looks pale. Pt has not had BM or any blood per rectum since 
then.
Is having some lower abd cramping since this AM. Denies CP, SOB.
Colonoscopy in ___ with diverticulosis and no other findings. 
Pt
has not had constipation lately. No blood thinners. 
 
In the ED:

Initial vital signs were notable for:
T 98.7, HR 62, BP 143/86, O2 sat 98% RA 

Exam notable for:
pale
slightly tender lower abd
rectal exam with brown stool mixed with bright red blood, heme+

Labs were notable for:
Hgb 12.2

Studies performed include:
EKG: sinus bradycardia, normal axis, QTc 436

Patient was given:
nothing

Consults:
GI

Vitals on transfer:
T 99.1, HR 60, BP 144/82, O2 sat 98% RA 

Upon arrival to the floor, patient confirms above history. She
states that she is currently feeling well without complaints. 
She
denies any bowel movements since this morning. She denies
dizziness or palpitations. 

 
Past Medical History:
PAST MEDICAL HISTORY:
GERD 
eosinophilic esophagitis 
migraines

 
Social History:
___
Family History:
FAMILY HISTORY:
Mother had rheumatic heart disease
Father had migraines and died at age ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.2, BP 134/85, HR 68, O2 sat 97% on RA 
GENERAL: White female lying in bed. Appears younger than stated
age. Alert and interactive. In no acute distress.
HEENT: NCAT. Sclera anicteric and without injection. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: Warm and well perfused. No ___ edema.
NEUROLOGIC: AOx3.

DISCAHRGE PHYSICAL EXAM:  
Vitals: 
___ 0745 Temp: 98.3 PO BP: 123/76 L Lying HR: 58 RR: 17 O2 
sat: 98% O2 delivery: Ra 
GENERAL: Lying on bed comfortably, appropriately interactive, in 
no distress.
HEENT: Normocephalic, sclera anicteric, no conjunctival pallor, 
PERRL, moist mucus membranes.
CARDIAC: Normal rate, regular rhythm, no murmurs appreciated
LUNGS: Breathing comfortably on room air, clear to auscultation 
bilaterally without wheezes or crackles
ABDOMEN: +BS, soft, non-distended, non-tender to palpation. No 
hepatosplenomegaly appreciated 
EXTREMITIES: Warm and well perfused, edema or cyanosis, distal 
pulses 2+ and symmetric
NEUROLOGIC: Alert, oriented. Readily able to discuss events 
recent and remote. CN II-XII intact. Moving all extremities 
equally. 

 
Pertinent Results:
==============
Admission Labs
==============
___ 02:15PM BLOOD WBC-9.4 RBC-4.26 Hgb-12.2 Hct-37.2 MCV-87 
MCH-28.6 MCHC-32.8 RDW-14.2 RDWSD-45.2 Plt ___
___ 02:15PM BLOOD Neuts-68.4 ___ Monos-5.2 Eos-1.5 
Baso-0.4 Im ___ AbsNeut-6.42* AbsLymp-2.25 AbsMono-0.49 
AbsEos-0.14 AbsBaso-0.04
___ 02:15PM BLOOD Glucose-75 UreaN-14 Creat-0.8 Na-138 
K-4.5 Cl-104 HCO3-23 AnGap-11

==============
Discharge Labs
==============
___ 06:59AM BLOOD WBC-7.6 RBC-4.00 Hgb-11.2 Hct-33.9* 
MCV-85 MCH-28.0 MCHC-33.0 RDW-14.1 RDWSD-43.9 Plt ___
___ 06:59AM BLOOD ___ PTT-26.2 ___
___ 06:59AM BLOOD Glucose-88 UreaN-14 Creat-0.8 Na-142 
K-4.3 Cl-107 HCO3-24 AnGap-11
___ 06:59AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.8
 
Brief Hospital Course:
======================
BRIEF HOSPITAL COURSE
======================
___ F w/ hx of diverticulosis (last ___ ___, GERD, and 
eosinophilic esophagitis w/ complaint of an episode of nausea 
w/o emesis and diarrhea followed by one episode of passing 
bloody clots per rectum.

=============
ACUTE ISSUES:
=============
#Lower GI bleed
#Diverticulosis
#Nausea/diarrhea
Patient presented with one episode of BRBPR the morning of 
presentation preceded by abd pain/nausea/diarrhea (unsure if 
blood then) earlier that night. Vitals stable and hgb near 
baseline at admission. Rectal exam in ED showed blood, guaiac+, 
no BM or blood after admission however. Given hx of 
diverticulosis, the most likely etiology was thought to be a 
diverticular bleed. Unclear if the nausea/diarrhea and abd 
cramping were related: there was low suspicion for infection 
given no ongoing or systemic symptoms and no leukocytosis. 
Considering the constellation of symptoms, would also think 
about ischemic colitis, although seems less likely given lack of 
abd tenderness, no ongoing sx, no hx of dehydration or low 
volume status. This would be managed conservatively in any case. 
She has had a recent colonoscopy, so malignancy is unlikely 
unlikely. AVM possible but also not seen on last ___. Other 
etiologies thought to be less likely for the bleed. GI evaluated 
the patient and felt that she was safe for discharge the morning 
after admission. Unfortunately, patient did not have a 
subsequent BM and so stool cultures were not sent. She remained 
hemodynamically stable, her hgb was 11.2 (near her baseline of 
11.6 from ___ at discharge, and she did not require 
transfusion during her stay. 

===============
CHRONIC ISSUES:
===============
#chronic migraines
Patient's home magnesium and vitamin B2 for migraine ppx were 
continued during her stay. Her escitalopram was also continued. 
Her sumatriptan was continued. She did receive one dose of 
naproxen migraine; patient was counseled regarding use of NSAIDs 
in setting of GI bleed. 

#urinary incontinence/bladder spasm
Home oxybutynin was continued during her stay

========================
TRANSITIONAL ISSUES
========================
#Lower GI bleed
#Diverticulosis
[] Please assist patient in arranging PCP ___
[] Please help patient arrange gastroenterology ___
[] Please check CBC at next ___ visit (within ___ wks)
[] Please ensure that patient is not using excessive NSAIDs
[] Send stool cultures if indicated

#Chronic migraine
[] Please discuss risks v benefits of taking naproxen with 
respect to managing migraine v risk of GI bleed and adjust 
medications as appropriate 

#CODE: full, confirmed
#CONTACT: ___ (niece) - no phone # on file
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Oxybutynin 5 mg PO BID 
4. Align (Bifidobacterium infantis) 4 mg oral BID 
5. Magnesium Oxide 400 mg PO DAILY 
6. Riboflavin (Vitamin B-2) 200 mg PO BID 
7. Omeprazole 40 mg PO BID 
8. Sumatriptan Succinate 100 mg PO ONCE:PRN migraine 
9. Senna 8.6 mg PO BID:PRN Constipation - First Line 
10. Escitalopram Oxalate 10 mg PO DAILY 
11. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600-800 mg-units oral BID 
12. Fish Oil (Omega 3) 1200 mg PO DAILY 
13. Naproxen 500 mg PO Q12H:PRN migraine 

 
Discharge Medications:
1.  Align (Bifidobacterium infantis) 4 mg oral BID  
2.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600-800 mg-units oral BID  
3.  Cetirizine 10 mg PO DAILY  
4.  Escitalopram Oxalate 10 mg PO DAILY  
5.  Fish Oil (Omega 3) 1200 mg PO DAILY  
6.  Magnesium Oxide 400 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Omeprazole 40 mg PO BID  
9.  Oxybutynin 5 mg PO BID  
10.  Riboflavin (Vitamin B-2) 200 mg PO BID  
11.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
12.  Sumatriptan Succinate 100 mg PO ONCE:PRN migraine  
13. HELD- Naproxen 500 mg PO Q12H:PRN migraine  This medication 
was held. Do not restart Naproxen until you are told to do so by 
your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
=================
Lower GI bleed
Diverticulosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Ms. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
You were in the hospital because you had nausea, diarrhea, and a 
bloody bowel movement. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
While you were in the hospital you were evaluated by the 
gastroenterology team, your laboratory values were checked, and 
you were monitored for any signs or symptoms of ongoing 
bleeding. There was no evidence of a concerning amount of 
bleeding and you were cleared for discharge the day after 
admission. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
You should continue to take all your medications. Please set up 
___ appointments with your outpatient GI doctor and your 
PCP so they can check your labs, perform any appropriate 
evaluation, and potentially make adjustments to your 
medications. 

We wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___